US05352782
Loracarbef Acetone Crystal
Loracarbef DMF disolvate 7.0 g (50 bg) was slurried in 50 ml acetone for 15 minutes (no noticeable change under microscope). The crystals were filtered on a 5.5 cm Buchner funnel with a Whatman 1 filter (fast filtration). The crystals were washed with ~7 ml acetone. The crystals were dried in the vacuum oven for two hours at 45° C. Wgt: 5.66 g, Purity: 90.4%, DMF: 3.15%, KF: 4.3%, Rel. Subs: 0.23%, Yield: 101.5%

reactant | Loracarbef DMF | 7.0 g | C=1C=CC(=CC1)[C@H](C(=O)N[C@H]2[C@H]3CCC(=C(N3C2=O)C(=O)O)Cl)N.CN(C)C=O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | Loracarbef Acetone | Yield: 101.5% | C=1C=CC(=CC1)[C@H](C(=O)N[C@H]2[C@H]3CCC(=C(N3C2=O)C(=O)O)Cl)N.CC(=O)C | InChI=1S/C16H16ClN3O4.C3H6O/c17-9-6-7-10-12(15(22)20(10)13(9)16(23)24)19-14(21)11(18)8-4-2-1-3-5-8;1-3(2)4/h1-5,10-12H,6-7,18H2,(H,19,21)(H,23,24);1-2H3/t10-,11-,12+;/m1./s1
